US08236801B2
B.1.2 Synthesis of (1R,3S,4S)-3-Hydroxymethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
At −78° C. a solution of DIBAL in toluene (1.7M, 137 mmol) is added dropwise to a solution of (1R,3S,4S)-2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (61.0 mmol) in THF (180 mL). After 80 min the solution is allowed to reach rt, stirred for additional 2 h and poured into a mixture of aq. NaOH solution (1.0M, 200 mL) and ice. EtOAc (150 mL) is added, the layers are separated and the aq. layer is extracted three times with EtOAc (150 mL each). The combined organic layers are washed with aq. NaOH solution (1.0M) and brine, dried over Na2SO4 and concentrated in vacuo to give a crude product which is used without further purification. LC-MS (basic): tR=0.78 min; [M+H]+=228.3.

reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | toluene | 137 mmol, 1.7M | C1(=CC=CC=C1)C | C7H8
reactant | (1R,3S,4S)-2-aza-bicyclo[2.2.1]heptane-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 61.0 mmol | COC(=O)[C@H]1N([C@@H]2CC[C@H]1C2)C(=O)OC(C)(C)C | C13H21NO4
reactant | NaOH | 1.0M, 200 mL | [OH-].[Na+]
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (1R,3S,4S)-3-Hydroxymethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CO)C2 | C12H21NO3
